US07220856B2
Preparation of 4-(7-Chloro-4-quinolinyl)-N-[3-[(4-methyl-2pyridinyl)oxy]cycloheptyl]-1-piperazinecarboxamide
As described for example 138, 4-(7-chloro-4-quinolinyl)-N-(3-hydroxycycloheptyl)-1-piperazinecarboxamide, NaH, and 2-bromo-4-picoline are reacted to give the product. LC-MS 494 (M++1). 1H NMR (CDCl3) δ 8.75 (d, 1H), 8.05 (s, 1H), 7.98 (d, 1H), 7.85 (d, 1H), 7.45 (d, 1H), 6.85 (d, 1H), 6.68 (d, 1H), 6.56 (s, 1H), 6.20 (d, 1H), 5.16 (m, 1H), 4.10 (m, 1H), 3.78 (m, 4H), 3.25 (m, 4H), 2.25 (s, 3H), 2.10 (m, 3H), 1.85 (m, 2H), 1.30–1.73 (m, 5H).

reactant | 4-(7-chloro-4-quinolinyl)-N-(3-hydroxycycloheptyl)-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)O | C21H27ClN4O2
reactant | NaH | [H-].[Na+]
reactant | 2-bromo-4-picoline | BrC1=NC=CC(=C1)C | C6H6BrN
product | 4-(7-Chloro-4-quinolinyl)-N-[3-[(4-methyl-2pyridinyl)oxy]cycloheptyl]-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)OC1=NC=CC(=C1)C | C27H32ClN5O2
